US07897624B2
1-(2-Hydroxyethyl)-N-(4-(2-fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridin-3-yl)cyclopropanesulfonamide
NaH (60% in mineral oil) (21.8 mg, 0.544 mmol) is added to a solution of 1-(2-fluoro-4-iodophenyl)-5,7-dimethyl-1H-imidazo[4,5-c]pyridine-2,6(3H,5H)-dione (100 mg, 0.251 mmol) in dry DMF (5 mL) at 0° C. The cooling bath is removed and the solution stirred at room temperature for 1 hour. The solution is re-cooled to −5° C. in a dry-ice/acetone bath, and 1-[2-(tert-butyldimethylsilanyloxy)ethyl]-cyclopropanesulfonyl chloride (300 mg, 1 mmol) in dry THF (2 mL) is added. The mixture is warmed to room temperature and stirred for an additional 16 hours. The mixture is concentrated to give an oily residue and purified via flash chromatography (SiO2, EtOAc:MeOH=9:1) to give the title compound.

reactant | NaH | 0.544 mmol, 21.8 mg | [H-].[Na+]
reactant | 1-(2-fluoro-4-iodophenyl)-5,7-dimethyl-1H-imidazo[4,5-c]pyridine-2,6(3H,5H)-dione | 0.251 mmol, 100 mg | FC1=C(C=CC(=C1)I)N1C(NC2=CN(C(C(=C21)C)=O)C)=O | C14H11FIN3O2
reactant | 1-[2-(tert-butyldimethylsilanyloxy)ethyl]-cyclopropanesulfonyl chloride | 1 mmol, 300 mg | [Si](C)(C)(C(C)(C)C)OCCC1(CC1)S(=O)(=O)Cl | C11H23ClO3SSi
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(2-Hydroxyethyl)-N-(4-(2-fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridin-3-yl)cyclopropanesulfonamide | OCCC1(CC1)S(=O)(=O)NC1=CN(C(C(=C1NC1=C(C=C(C=C1)I)F)C)=O)C | C18H21FIN3O4S
